US06998412B2
1-Bromo-3-[2,2-bis(ethoxycarbonyl)-2-(p-toluoylamino)ethyl]benzene
To 100 ml of dry ethanol, 21.45 g of 20% sodium ethoxide-ethanol solution and 17.61 g of diethyl p-toluoylaminomalonate were added and stirred for 30 minutes at room temperature under argon atmosphere. After 15.00 g of 3-bromobenzyl bromide was added dropwise, the reaction solution was stirred for 8 hours at 55° C. and then concentrated. To the residue was added water, and extracted with ethyl acetate. The organic.layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to provide 29.82 g of the objective compound as yellow oil.

reactant | sodium ethoxide ethanol | 21.45 g | [O-]CC.[Na+].C(C)O
reactant | diethyl p-toluoylaminomalonate | 17.61 g | C1(=CC=C(C=C1)C(=O)NC(C(=O)OCC)C(=O)OCC)C | C15H19NO5
reactant | 3-bromobenzyl bromide | 15.00 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Bromo-3-[2,2-bis(ethoxycarbonyl)-2-(p-toluoylamino)ethyl]benzene | 29.82 g | BrC1=CC(=CC=C1)CC(NC(=O)C1=CC=C(C=C1)C)(C(=O)OCC)C(=O)OCC | C22H24BrNO5
